US05688796
Preparation of 2-Chloro-5-carboxychloropyridine
2-Hydroxypyridine-5-carboxylic acid (4 g, 29 mmol) was dissolved 150 mL of dichloromethane, 50 mL of SOCl2, and five drops of DMF. The raction mixture was heated to reflux under a nitrogen atmosphere for sixteen hours. The reaction mixture was evaporated to an oily solid and used without further purification or characterization (see Preparation 3).

reactant | 2-Hydroxypyridine-5-carboxylic acid | 29 mmol, 4 g | OC1=NC=C(C=C1)C(=O)O | C6H5NO3
reactant | SOCl2 | 50 mL | O=S(Cl)Cl | Cl2OS
reactant | dichloromethane | 150 mL | ClCCl | CH2Cl2
catalyst | DMF | five drops | CN(C)C=O | C3H7NO
product | 2-Chloro-5-carboxychloropyridine | ClC1=NC=C(C=C1Cl)C(=O)O | C6H3Cl2NO2
